US06245804B1
1.9 g of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester is refluxed with 40 ml of potassium hydroxide in methanol (10%) for 2 hours. After the solvent is concentrated by evaporation in a vacuum, water is added, it is extracted with hexane, and the separated water phase is acidified with 6N hydrochloric acid. After extraction with ethyl acetate, the ethyl acetate phase is washed with water, dried (Na2SO4) and concentrated by evaporation. The residue is crystallized from hexane. 1.55 g of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid, melting point 102-104° C., is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | 1.9 g | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O | C16H20F4O4
reactant | potassium hydroxide | 40 ml | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid | 1.55 g | FC=1C=CC(=C(C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C)OC | C14H16F4O4
